US09163027B2
5,7-Dimethyl-2-(methylsulfanyl)-[1,2,4]-triazolo[1,5-a]pyrimidine
A mixture of 2,4-pentanedione (11.54 g, 115 mmol), 3-amino-5-methylthio-1H-1,2,4-triazole (15.0 g, 115 mmol), and glacial acetic acid (115 mL) was added to a 1 L RBF with a magnetic stirring bar. The flask was fitted with a condenser, and warmed in an oil bath to a gentle reflux at 135° C. The mixture was heated for 15 hours. Progress of the reaction was monitored by analytical HPLC with UV detection at 215 and 254 nm. The starting material 3-amino-5-methylthio-1H-1,2,4-triazole elutes rapidly with retention time of 0.7 min, and the product elutes with retention time of 5.0 min. The mixture was cooled to room temperature, then slowly poured into stirring ice/water (750 mL) to precipitate product and stirred ˜20 minutes. Solids were isolated by filtration, rinsed with 250 mL of water, and then dried under reduced pressure to afford the title compound as a powder (15.9 g, 71% yield).

reactant | 2,4-pentanedione | 115 mmol, 11.54 g | CC(CC(C)=O)=O | C5H8O2
reactant | 3-amino-5-methylthio-1H-1,2,4-triazole | 115 mmol, 15.0 g | NC1=NNC(=N1)SC | C3H6N4S
solvent | acetic acid | 115 mL | C(C)(=O)O | C2H4O2
product | 5,7-Dimethyl-2-(methylsulfanyl)-[1,2,4]-triazolo[1,5-a]pyrimidine | 15.9 g, 71% yield | CC1=NC=2N(C(=C1)C)N=C(N2)SC | C8H10N4S
